US05262549
Preparation of N-(2,4-dinitrophenyl)pyridinium chloride (Formula IX)
1-Chloro-2,4-dinitrobenzene (10 g, 49.4 mmol) and pyridine (40 ml, 495 mmol) were mixed in a 100 ml round-bottom flask; the resultant solution turned orange and became very cold. The flask was then warmed to 30° C, by which time the solution was dark brown, and the solution was left to react overnight. The resulting solid was broken up, washed with ether and collected on a fritted glass funnel to yield 12.3 g of a pale pink, semicrystalline solid. This solid was dissolved in 120 ml of hot ethanol, and the resultant solution decolorized with charcoal and filtered. The crystals obtained were washed with a 1:1 v/v ethanol:ether mixture. A second crop of crystals was collected and combined with the first crop, to give an overall yield of 70% of theoretical.

reactant | 1-Chloro-2,4-dinitrobenzene | 49.4 mmol, 10 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | pyridine | 495 mmol, 40 ml | N1=CC=CC=C1 | C5H5N
reactant | charcoal | C | CH4
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | N-(2,4-dinitrophenyl)pyridinium chloride | yield of 70% | [Cl-].[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[N+]1=CC=CC=C1 | InChI=1S/C11H8N3O4.ClH/c15-13(16)9-4-5-10(11(8-9)14(17)18)12-6-2-1-3-7-12;/h1-8H;1H/q+1;/p-1
